US08314100B2
1-[(6-Fluoro-3-methoxyquinoxalin-2-yl)aminocarbonyl]-4-(4-methoxyphenyl)piperazine (Compound 88)
Ethyl N-(6-fluoro-3-methoxyquinoxalin-2-yl)carbamate and 1-(4-methoxyphenyl)piperazine were reacted by the same way with the example 85 to obtain the titled compound (yield, 84%). 1H NMR (200 MHz, CDCl3): δ 3.15-3.18 (m, 4H), 3.78 (s, 4H), 4.15 (s, 3H), 6.85-6.96 (m, 4H), 7.22-7.42 (m, 3H), 7.81 (dd, J=9.0 and 6.0 Hz, 1H).

reactant | Ethyl N-(6-fluoro-3-methoxyquinoxalin-2-yl)carbamate | FC=1C=C2N=C(C(=NC2=CC1)NC(OCC)=O)OC | C12H12FN3O3
reactant | 1-(4-methoxyphenyl)piperazine | COC1=CC=C(C=C1)N1CCNCC1 | C11H16N2O
product | 1-[(6-Fluoro-3-methoxyquinoxalin-2-yl)aminocarbonyl]-4-(4-methoxyphenyl)piperazine | 84% | FC=1C=C2N=C(C(=NC2=CC1)NC(=O)N1CCN(CC1)C1=CC=C(C=C1)OC)OC | C21H22FN5O3
